US06582837B1
In a flask were placed 35 g of 9,9′-bianthryl, 18.0 g of N-bromosuccinimide and 500 mL of carbon tetrachloride, and the mixture was stirred overnight. The reaction mixture was filtered, the filtrate was passed through a column filled with alumina. Carbon tetrachloride was evaporated from the solution under a reduced pressure, and then the residue was recrystallized from petroleum ether, to give 35 g(yield: 80%) of 10-bromo-9,9′-bianthryl. Then, in a 100 mL three-necked flask were placed 18.3 g of 10-bromo-9,9′-bianthryl, 10 g of diphenylamine, 8.5 g of potassium carbonate, 0.2 g of copper powder and 50 mL of nitrobenzene, and the mixture was stirred at 200° C. for 30 hours. After completion of the reaction, toluene was added to the mixture. The mixture was filtered to remove inorganics. Toluene and nitrobenzene were evaporated under a reduced pressure. The residue was purified by column chromatography on silica gel eluting with a 1:2 mixture of toluene and ligroin, to give 15 g(yield: 60%) of 10-diphenylamino-9,9′-bianthryl.

reactant | 10-bromo-9,9′-bianthryl | 18.3 g | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C28H17Br
reactant | diphenylamine | 10 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 50 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.2 g | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10-diphenylamino-9,9′-bianthryl | 15 g, yield: 60% | C1(=CC=CC=C1)N(C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C=C2C=CC=CC12)C1=CC=CC=C1 | C40H27N
